US04704459
In 20 ml of N,N-dimethylformamide was dissolved 1.00 g of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate, and 570 mg of potassium carbonate and 520 mg of dimethyl sulfate were added thereto at room temperature, after which the resulting mixture was subjected to reaction at the same temperature for 4 hours. To the reaction mixture were added 50 ml of water and 50 ml of ethyl acetate, and the organic layer was separated, washed successively with 100 ml of water and 20 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 5 ml of diethyl ether, after which crystals were collected by filtration to obtain 950 mg (yield 91.5%) of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate. The physical properties of this compound were identical with those of the compound obtained in Example 41.

reactant | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate | 1.00 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)O)F)=O)C(=O)OCC | C17H11F3N2O4
reactant | potassium carbonate | 570 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 520 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate | 950 mg, yield 91.5% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)OC)F)=O)C(=O)OCC | C18H13F3N2O4
